US08198441B2
(5-{2,4-bis[(3S)-3-methylmorpholin-4-yl]pyrido[2,3-d]pyrimidin-7-yl}-2-methoxyphenyl)methanol (6) (Alternate Method)
Potassium hydroxide solution (9.96 mL, 133.20 mmol) was added over 30 minutes to a solution of 5-{2,4-bis[(3S)-3-methylmorpholin-4-yl]pyrido[2,3-d]pyrimidin-7-yl}-2-methoxybenzyl pivalate prepared by the alternate method (25.16 g, 0.30 mmol) in methanol (244 mL) at 50° C. under an atmosphere of nitrogen. After 120 minutes at 50° C., HPLC analysis showed complete disappearance of the starting material. Seed crystals of the desired compound were then added (122 mg, 257 μmol) and the reaction was maintained at 50° C. for 2 hours to establish crystallisation of the desired product. Water, (244 mL) is then added over 15 minutes maintaining a reaction temperature of 50° C. The reaction mixture is then cooled to 20° C. and the resulting yellow solid isolated by filtration. The yellow solid was washed with water (3×97 mL) and dried initially in air and then in vacuo at 45° C. to give (5-{2,4-bis[(3S)-3-methylmorpholin-4-yl]pyrido[2,3-d]pyrimidin-7-yl}-2-methoxyphenyl)methanol (6) as a yellow solid (19.33 g).

reactant | Potassium hydroxide | 133.20 mmol, 9.96 mL | [OH-].[K+]
reactant | 5-{2,4-bis[(3S)-3-methylmorpholin-4-yl]pyrido[2,3-d]pyrimidin-7-yl}-2-methoxybenzyl pivalate | C(C(C)(C)C)(=O)OCC1=C(C=CC(=C1)C=1C=CC2=C(N=C(N=C2N2[C@H](COCC2)C)N2[C@H](COCC2)C)N1)OC | C30H39N5O5
solvent | methanol | 244 mL | CO | CH4O
product | (5-{2,4-bis[(3S)-3-methylmorpholin-4-yl]pyrido[2,3-d]pyrimidin-7-yl}-2-methoxyphenyl)methanol | C[C@@H]1N(CCOC1)C=1N=C(C2=C(N1)N=C(C=C2)C=2C=CC(=C(C2)CO)OC)N2[C@H](COCC2)C | C25H31N5O4
